US05302720
2-Amino-5-methoxybiphenyl hydrochloride (0.4 g) was heated with N,N-dimethylcyanamide (0.3 ml) in m-cresol (0.5 ml) at 110° C. for 8 hours to give a residue which was triturated with ether and crystallised from a 1:1 mixture of acetone and ether to give N-(5-methoxy-2-biphenylyl)-N',N'-dimethyl guanidine hydrochloride (m.p. 160° C.).

reactant | 2-Amino-5-methoxybiphenyl hydrochloride | 0.4 g | Cl.NC1=C(C=C(C=C1)OC)C1=CC=CC=C1
reactant | N,N-dimethylcyanamide | 0.3 ml | CN(C#N)C | C3H6N2
solvent | m-cresol | 0.5 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(5-methoxy-2-biphenylyl)-N',N'-dimethyl guanidine hydrochloride | Cl.COC=1C=CC(=C(C1)C1=CC=CC=C1)NC(=N)N(C)C | InChI=1S/C16H19N3O.ClH/c1-19(2)16(17)18-15-10-9-13(20-3)11-14(15)12-7-5-4-6-8-12;/h4-11H,1-3H3,(H2,17,18);1H
